US05731468
A beaker was charged with maleic acid (120.5 g, 1.03 mole); deionized water (120 g); and 50 percent aqueous NaOH (167 g, 2.08 mole). The mixture was stirred until dissolution occurred; the resulting solution was transferred to a 1-liter, stainless-steel autoclave, using 40 g deionized water as a rinse. Ethylenediamine (31.0 g, 0.51 mole) was added over a ten-minute period; and the autoclave was sealed. The mixture was stirred and heated at 140° C. for nine hours and then allowed to cool to ambient temperature. The product solution was acidified to a pH of about 2 with 37 percent aqueous HCl, resulting in the precipitation of racemic/meso EDDS acid. When the precipitation was complete, the product was removed by filtration; washed with deionized water (2×300 mL); and dried overnight under vacuum at 60° C. The yield of EDDS acid, shown to be pure by 1H- and 13C-nmr, was 108 g (0.37 mole, 72 percent).

reactant | maleic acid | 1.03 mole, 120.5 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | NaOH | 2.08 mole, 167 g | [OH-].[Na+]
reactant | Ethylenediamine | 0.51 mole, 31.0 g | C(CN)N | C2H8N2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | water | 120 g | O | H2O
product | EDDS | C(CNC(CC(=O)O)C(=O)O)NC(CC(=O)O)C(=O)O | C10H16N2O8
